US07135600B2
ix) 3-{4-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]butyl}benzenesulfonamide
3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]benzenesulfonamide (0.43 g) was stirred in THF (10 ml) while purging with a vigorous stream of nitrogen for 5 min. Potassium trimethylsilanoate (0.43 g) was added and the mixture was stirred at 70° under nitrogen for 2.5 h. The mixture was partitioned between dichloromethane and pH 6.4 phosphate buffer and the aqueous layer was extracted with more dichloromethane. The combined organic layers were washed with water, dried (MgSO4) and concentrated. The residue was purified on silica gel (60 g), eluting successively with ethyl acetate:petroleum ether (bp 40–60°) (1:1), ethyl acetate, 10% then 20% methanol in ethyl acetate to give the title compound (0.286 g), LCMS RT=2.56 min.

reactant | 3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]benzenesulfonamide | 0.43 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC=2C=C(C=CC2)S(=O)(=O)N)C | C29H40N2O7S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-{4-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]butyl}benzenesulfonamide | 0.286 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCCCCCOCCCCC=2C=C(C=CC2)S(=O)(=O)N)O)C | C28H42N2O6S
